US07754712B2
13-(4-Chloro-benzenesulfonyl)-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-5-ylamine MS (ES) m/e 365.0 (M+H).
Prepared as described in Example 5 using 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one which was prepared as described in Example 34 and guanidine hydrochloride. See also: Hasan, Mashooda; Rashid, Naghmana; Khan, Khalid Mohammed; Snatzke, Guenther; Duddeck, Helmut; Voelter, Wolfgang Liebigs Annalen 1995, (5), 889-96.

reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
reactant | guanidine hydrochloride | Cl.NC(=N)N
product | 13-(4-Chloro-benzenesulfonyl)-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-5-ylamine | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NC(=NC3CC1CCC2)N | C16H17ClN4O2S
